US06080743
[N-(2,3-Dioxo-7-nitro-1,2,3,4-tetrahydroquinoxalin-5-ylmethyl)-2-amino-4-thiazolyl]-acetic acid hydrochloride
80 mg (0.2 mmol) of [N-(2,3-dioxo-7-nitro-1,2,3,4-tetrahydroquinoxalin-5-ylmethyl)-2-amino-4-thiazolyl]-acetic acid ethyl ester hydrobromide are stirred in 2 ml of 2N sodium hydroxide solution at room temperature for 16 hours. The mixture is acidified with 3N HCl, and the resulting solid is filtered off and washed with a small amount of water and 2×20 ml of diethyl ether. After drying, the title compound is obtained in the form of a yellow solid.

reactant | [N-(2,3-dioxo-7-nitro-1,2,3,4-tetrahydroquinoxalin-5-ylmethyl)-2-amino-4-thiazolyl]-acetic acid ethyl ester hydrobromide | 0.2 mmol, 80 mg | Br.C(C)OC(CC=1N(C(SC1)N)CC1=C2NC(C(NC2=CC(=C1)[N+](=O)[O-])=O)=O)=O
reactant | HCl | 3N | Cl | ClH
solvent | sodium hydroxide | 2N, 2 ml | [OH-].[Na+]
product | [N-(2,3-Dioxo-7-nitro-1,2,3,4-tetrahydroquinoxalin-5-ylmethyl)-2-amino-4-thiazolyl]-acetic acid hydrochloride | Cl.O=C1NC2=CC(=CC(=C2NC1=O)CN1C(SC=C1CC(=O)O)N)[N+](=O)[O-] | InChI=1S/C14H13N5O6S.ClH/c15-14-18(8(5-26-14)3-10(20)21)4-6-1-7(19(24)25)2-9-11(6)17-13(23)12(22)16-9;/h1-2,5,14H,3-4,15H2,(H,16,22)(H,17,23)(H,20,21);1H
